US05324733
To a stirred solution of spiro[indane-1,4'-piperidine] (110 mg, 0.59 mmol), in anhydrous DMF (10 ml), under an atmosphere of nitrogen, was added potassium carbonate (98 mg, 0.71 mmol) followed by benzyl bromide (0.08 ml, 0.65 mmol) dropwise. The mixture was heated at 100° C. for 2 hours, after which time the solution was cooled to ambient temperature. The solvent was removed in vacuo, then ether (20 ml) was added to the residue and the mixture was washed with water (2×20 ml). The organic layer was separated, dried (MgSO4) and the solvent evaporated in vacuo. The crude residue was chromatographed using 1:1 petrol (60/80):ether, to give 1'-benzylspiro[indane-1,4'-piperidine] as a viscous colourless oil (31 mg, 20%).

reactant | spiro[indane-1,4'-piperidine] | 0.59 mmol, 110 mg | N1CCC2(CC1)CCC1=CC=CC=C12 | C13H17N
reactant | potassium carbonate | 0.71 mmol, 98 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.65 mmol, 0.08 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1'-benzylspiro[indane-1,4'-piperidine] | 31 mg, 20% | C(C1=CC=CC=C1)N1CCC2(CC1)CCC1=CC=CC=C12 | C20H23N
